US09034900B2
Step 2: N-[4-(2,4-difluorophenoxy)-3-[1-methyl-6-oxo-5-(2,2,2-trifluoroethoxy)pyridin-3-yl]phenyl]ethanesulfonamide
A mixture of 5-bromo-1-methyl-3-(2,2,2-trifluoroethoxy)pyridin-2-one (50 mg, 0.18 mmol), N-[4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanesulfonamide (79 mg, 0.18 mmol), Pd(dppf)Cl2 (11 mg) and K3PO4 (76 mg, 0.36 mmol) in dioxane (5 mL) and water (5 drops) was purged with nitrogen, capped, and heated to 70° C. for 8 h. After the mixture was filtered, the filtrate was concentrated in vacuo and purified by prep-HPLC to afford the title compound (11 mg, 11%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.39 (m, 1H) 7.32 (m, 1H) 7.25 (d, J=2.8 Hz, 1H) 7.12 (dd, J1=2.8 Hz, J2=8.8 Hz, 1H) 6.99-6.93 (m, 2H) 6.88-6.83 (m, 1H) 6.79 (d, J=8.8 Hz, 1H) 6.47 (b.s., 1H), 4.56 (m, 2H), 3.65 (s, 3H) 3.15 (q, J=7.2 Hz, 2H) 1.42 (t, J=7.2 Hz, 3H). LCMS (M+H)+=519.

reactant | 5-bromo-1-methyl-3-(2,2,2-trifluoroethoxy)pyridin-2-one | 0.18 mmol, 50 mg | BrC=1C=C(C(N(C1)C)=O)OCC(F)(F)F | C8H7BrF3NO2
reactant | N-[4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanesulfonamide | 0.18 mmol, 79 mg | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C20H24BF2NO5S
reactant | K3PO4 | 0.36 mmol, 76 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(dppf)Cl2 | 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(2,4-difluorophenoxy)-3-[1-methyl-6-oxo-5-(2,2,2-trifluoroethoxy)pyridin-3-yl]phenyl]ethanesulfonamide | 11 mg, 11% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C(=C2)OCC(F)(F)F)=O)C)C=CC(=C1)F | C22H19F5N2O5S
